US04886816
Dimethyl 4-(2,2-difluoro-1,3-benzodioxol-5-yl)-1,4-dihydro-2,6-dimethyl-pyridine-3,5-dicarboxylate
20 mmol of methyl β-aminocrotonate and 20 mmol of crude methyl (2,2-difluoro-1,3-benzodioxol-5-yl)-methylene-acetoacetate are heated under reflux in 30 ml of methanol for 12 hours, the methanol is evaporated off and the residue is chromatographed on silica gel with chloroform. The evaporated product fraction is taken up in a little methylene chloride and the mixture is foamed to a glass by rapid evacuation.

reactant | methyl β-aminocrotonate | 20 mmol | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | methyl (2,2-difluoro-1,3-benzodioxol-5-yl)-methylene-acetoacetate | 20 mmol | FC1(OC2=C(O1)C=CC(=C2)C(C(CC(=O)OC)=O)=C)F | C13H10F2O5
solvent | methanol | 30 ml | CO | CH4O
product | Dimethyl 4-(2,2-difluoro-1,3-benzodioxol-5-yl)-1,4-dihydro-2,6-dimethyl-pyridine-3,5-dicarboxylate | FC1(OC2=C(O1)C=CC(=C2)C2C(=C(NC(=C2C(=O)OC)C)C)C(=O)OC)F | C18H17F2NO6
